data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4656,5309,[CH3:9][O:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[CH-:22][C:23]([CH3:24])=[O:25].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[CH:22]([C:23]([CH3:24])=[O:25])[N:20]([CH3:21])[C:13]1([C:11]([O:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,21.47432680240132,-21.32501943461709
18,20,[CH3:10][CH:11]=[N+:12]([CH3:13])[NH-:14].[CH3:1][C:2]([C:3]#[N:4])=[C:5]([C:6]#[N:7])[C:8]#[N:9]>>[CH3:1][C:2]1([C:3]#[N:4])[C:5]([C:6]#[N:7])([C:8]#[N:9])[NH:14][N:12]([CH3:13])[CH:11]1[CH3:10],water,298.15,6.160372383013248,-6.6584155462387145
1719,1902,[CH3:14][NH:15][C:16](=[O:17])[CH:18]=[N+:19]([CH3:20])[C-:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:21]([CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:19]([CH3:20])[CH:18]3[C:16]([NH:15][CH3:14])=[O:17],water,298.15,15.803277355450971,-46.86389123519439
360,391,[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][NH-:17].[N:1]#[C:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[NH:17][N:16]=[C:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,14.678856484678414,-53.87529158799632
5021,5709,[CH3:9][NH:10][C:11](=[O:12])[C:13](=[NH+:14][C-:15]([C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]([C:16](=[O:17])[O:18][CH3:19])([C:20](=[O:21])[O:22][CH3:23])[NH:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,24.84559016228429,-17.232821177673387
1688,1863,[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:18]([C:19](=[O:20])[O:21][CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:16]([CH3:17])[CH:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,28.40186586577623,-22.89465682966794
2559,2839,[CH3:16][NH:17][C:18](=[O:19])[C:20]([C:21](=[O:22])[O:23][CH3:24])=[N+:25]([CH3:26])[C-:27]([C:28]([CH3:29])=[O:30])[C:31](=[O:32])[NH:33][CH3:34].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([F:7])([C:8]([F:9])([F:10])[F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([F:7])([C:8]([F:9])([F:10])[F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:27]([C:28]([CH3:29])=[O:30])([C:31](=[O:32])[NH:33][CH3:34])[N:25]([CH3:26])[C:20]2([C:18]([NH:17][CH3:16])=[O:19])[C:21](=[O:22])[O:23][CH3:24],water,298.15,28.253346846729,-33.75838547679203
3460,3940,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14]([CH3:15])[c:16](=[O:17])[o:18]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]1([CH3:15])[NH:13][C:12]2([CH3:11])[O:18][C:16]1=[O:17],water,298.15,29.85272497199112,7.887972571785876
936,1015,[CH3:12][NH:13][C:14](=[O:15])[C:16]#[N+:17][CH-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][O:2][C:3]1=[C:4]([O:5][CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]1=[C:4]([O:5][CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:17]=[C:16]3[C:14]([NH:13][CH3:12])=[O:15],water,298.15,11.147142652787776,-63.57477460096674
1794,1985,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[NH:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:21]([C:22]([CH3:23])=[O:24])([C:25]([CH3:26])=[O:27])[N:19]([CH3:20])[C:14]3([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,32.07252408865019,-36.73416927340215
5261,5966,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C-:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N+:26]([CH3:27])=[C:28]([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:26]([CH3:27])[C:28]2([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,30.868427837656068,-4.878589126874342
